US06998412B2
Ethyl 7-acetyl-7-(p-toluoylamino)heptanoate
A suspension (100 ml) of 60% sodium hydride (2.64 g) in N,N-dimethylformamide was cooled to −18° C. with an ice-sodium chloride bath, and 31 ml of a solution of 12.62 g of 1-(p-toluoylamino)-2-propanone in N,N-dimethylformamide was added dropwise slowly. After 1-hour-stirring, 31 ml of a solution of 16.21 g of ethyl 6-iodohexanoate in N,N-dimethylformamide was added dropwise slowly. The ice-bath was removed and the mixture was stirred for 18 hours at room temperature. After addition of ice-cold water, the reaction solution was extracted with ethyl acetate, washed with water and brine sequentially, dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (Wakogel® C-200, n-hexane:ethyl acetate=3:1) to provide 13.13 g of the objective compound as yellow oil.

reactant | sodium hydride | 100 ml, 2.64 g | [H-].[Na+]
reactant | 1-(p-toluoylamino)-2-propanone | 12.62 g | C1(=CC=C(C=C1)C(=O)NCC(C)=O)C | C11H13NO2
reactant | ethyl 6-iodohexanoate | 16.21 g | ICCCCCC(=O)OCC | C8H15IO2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | Ethyl 7-acetyl-7-(p-toluoylamino)heptanoate | 13.13 g | C(C)(=O)C(CCCCCC(=O)OCC)NC(=O)C1=CC=C(C=C1)C | C19H27NO4
